*$
*  TPS7A4700 Model
*****************************************************************************
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warrenties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS7A4700
* Date: 06/08/2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: 
* EVM Users Guide: SLVU741 - JUNE 2012
* Datasheet: SBVS204 - JUNE 2012
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
* source TPS7A4700
.SUBCKT TPS7A4700 OUT_0 SENSE 6P4V2 6P4V1 3P2V GND 1P6V 0P8V
+ 0P4V 0P2V 0P1V EN NR IN_0 IN_1 OUT_1
R_TPS7A4700_ROUT         OUT_0 OUT_1  1m  
R_TPS7A4700_R_BIG3         0P4V 0  1G  
R_TPS7A4700_RNR         NR 0  1MEG  
R_TPS7A4700_R_BIG2         0P2V 0  1G  
R_TPS7A4700_RP2         TPS7A4700_N222934 6P4V1  50k  
R_TPS7A4700_RP5         TPS7A4700_N222934 0P8V  400k  
E_TPS7A4700_U1_ABM4         TPS7A4700_U1_N283078 0 VALUE {
+  V(TPS7A4700_U1_N05348)  
+ * V(OUT_1)  
+ / (V(TPS7A4700_N222934) + 1e-6)  }
X_TPS7A4700_U1_U3         TPS7A4700_U1_N277354 IN_1 TPS7A4700_U1_N278498
+  COMP_HYS_BASIC PARAMS:  VHYS=0.05 TD=0.00 TT=2E-9
R_TPS7A4700_U1_R1         GND TPS7A4700_U1_N05348  1G  
R_TPS7A4700_U1_R_ref2         TPS7A4700_U1_N283078 TPS7A4700_U1_N05382  1k  
C_TPS7A4700_U1_C_ref2         TPS7A4700_U1_N05382 0  1p  
V_TPS7A4700_U1_Venable         TPS7A4700_U1_N280665 0 1.35
V_TPS7A4700_U1_Vuvlo         TPS7A4700_U1_N278498 0 2.67
R_TPS7A4700_U1_R_ref3         TPS7A4700_U1_N283349 TPS7A4700_N222524  1k  
C_TPS7A4700_U1_C_ref3         TPS7A4700_N222524 0  1p  
X_TPS7A4700_U1_U2         TPS7A4700_U1_N277283 EN TPS7A4700_U1_N280665
+  COMP_HYS_BASIC PARAMS:  VHYS=0.05 TD=0.00 TT=2E-9
R_TPS7A4700_U1_R_ref1         TPS7A4700_U1_N282565 TPS7A4700_U1_N05348  1k  
R_TPS7A4700_U1_R2         GND TPS7A4700_U1_N05382  1G  
E_TPS7A4700_U1_ABM6         TPS7A4700_U1_N282565 0 VALUE { IF
+  (V(TPS7A4700_U1_N277354) > 0.51 & V(TPS7A4700_U1_N277283) > 0.51, 1.4, 0)    }
C_TPS7A4700_U1_C_ref1         TPS7A4700_U1_N05348 0  1p  
E_TPS7A4700_U1_ABM5         TPS7A4700_U1_N283349 0 VALUE {
+  MIN(V(TPS7A4700_U1_N05382),  
+ MAX(V(IN_1) - 0.300, 0))   }
R_TPS7A4700_RP3         TPS7A4700_N222934 3P2V  100k  
R_TPS7A4700_R_BIG4         0P8V 0  1G  
R_TPS7A4700_R5         TPS7A4700_VZZ TPS7A4700_VYY  17m  
E_TPS7A4700_ABM1         TPS7A4700_VYY 0 VALUE { MIN(V(TPS7A4700_VXX),
+  (V(TPS7A4700_VZZ)+0.0289))    }
R_TPS7A4700_RIN         IN_0 IN_1  1m  
R_TPS7A4700_R_BIG8         6P4V2 0  1G  
R_TPS7A4700_R_BIG6         3P2V 0  1G  
R_TPS7A4700_R_BIG7         6P4V1 0  1G  
R_TPS7A4700_RP7         TPS7A4700_N222934 0P2V  1.6MEG  
R_TPS7A4700_R1         TPS7A4700_VXX IN_1  3MEG  
X_TPS7A4700_F1    TPS7A4700_VZZ OUT_1 IN_1 TPS7A4700_VYY TPS7A4700_TPS7A4700_F1
R_TPS7A4700_RP6         TPS7A4700_N222934 0P4V  800k  
R_TPS7A4700_R_BIG10         SENSE 0  1G  
R_TPS7A4700_R2         TPS7A4700_N222524 TPS7A4700_VXX  435  
R_TPS7A4700_RD1         SENSE TPS7A4700_N222934  228.6k  
R_TPS7A4700_R_BIG1         0P1V 0  1G  
C_TPS7A4700_C1         TPS7A4700_VXX IN_1  1.77p  
C_TPS7A4700_C2         TPS7A4700_VXX TPS7A4700_N222524  1.33n  
R_TPS7A4700_RP4         TPS7A4700_N222934 1P6V  200k  
R_TPS7A4700_RP1         TPS7A4700_N222934 6P4V2  50k  
R_TPS7A4700_RP8         TPS7A4700_N222934 0P1V  3.2MEG  
R_TPS7A4700_R_BIG5         1P6V 0  1G
.ENDS TPS7A4700

.subckt TPS7A4700_TPS7A4700_F1 1 2 3 4  
F_TPS7A4700_F1         3 4 VF_TPS7A4700_F1 1
VF_TPS7A4700_F1         1 2 0V
.ends TPS7A4700_TPS7A4700_F1

.SUBCKT comp_hys_basic out inp inn 
+ PARAMS: 
+ vhys = 0.05 
+ td   = 0.00
+ tt   = 2e-9
E1 n1   0 VALUE {IF(V(inp) + V(out)*vhys > V(inn), 1, 0)}
R1 n1 out 10
C1 out  0 { (td + 0.5*tt) / 6.93 }
.ENDS comp_hys_basic
